US07462624B2
Step G: 6-(Methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-2H-purin-2-one
To a mixture of 3-pentyl-6-thioxo-8-(trifluoromethyl)-1,3,6,7-tetrahydro-2H-purin-2-one (0.15 g, 0.49 mmol) in a solution of sodium hydroxide in water (2 M, 2 mL) was added dimethyl sulfate (0.056 mL, 0.59 mmol). The reaction mixture was heated at 80° C. for 1.5 h, quenched with acetic acid and extracted with methylene chloride. The organic layer was dried (MgSO4), concentrate and purified by silica gel chromatography (0-20% EtOAc in hexane) to provide the product as a yellow solid (0.15 g, 95% yield). LCMS calculated for C12H16F3N4OS (M+H): 321.1; found: 321.1.

reactant | 3-pentyl-6-thioxo-8-(trifluoromethyl)-1,3,6,7-tetrahydro-2H-purin-2-one | 0.49 mmol, 0.15 g | C(CCCC)N1C(NC(C=2NC(=NC12)C(F)(F)F)=S)=O | C11H13F3N4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 0.59 mmol, 0.056 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 2 M, 2 mL | O | H2O
product | 6-(Methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-2H-purin-2-one | 0.15 g, 95% yield | CSC=1C=2NC(=NC2N(C(N1)=O)CCCCC)C(F)(F)F | C12H15F3N4OS
